US05607952
4-{2-[N-(1-Benzylpiperid-4-yl)amino]-1,3-thiazol-4-yl}benzonitrile dihydrobromide (Compound 3, (II) with R1 =H)
12.46 g of 4-cyanophenacyl bromide are added to 18.38 g of N-(1-benzylpiperid-4-yl)thiourea hydrobromide in 200 ml of methanol, and then the reaction mixture is heated under reflux for 4 hours. The mixture is cooled to room temperature and then, successively, 200 ml of diethyl ether are added and the precipitate is filtered and washed with diethyl ether in order to obtain white crystals which melt at 280° C.; yield: 86%.

reactant | 4-cyanophenacyl bromide | 12.46 g | C(#N)C1=CC=C(C(CBr)=O)C=C1 | C9H6BrNO
reactant | N-(1-benzylpiperid-4-yl)thiourea hydrobromide | 18.38 g | Br.C(C1=CC=CC=C1)N1CCC(CC1)NC(=S)N
reactant | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | methanol | 200 ml | CO | CH4O
product | 4-{2-[N-(1-Benzylpiperid-4-yl)amino]-1,3-thiazol-4-yl}benzonitrile dihydrobromide | yield: 86% | Br.Br.C(C1=CC=CC=C1)N1CCC(CC1)NC=1SC=C(N1)C1=CC=C(C#N)C=C1 | InChI=1S/C22H22N4S.2BrH/c23-14-17-6-8-19(9-7-17)21-16-27-22(25-21)24-20-10-12-26(13-11-20)15-18-4-2-1-3-5-18;;/h1-9,16,20H,10-13,15H2,(H,24,25);2*1H
